US03953499
A mixture of 5.0 g. of 1-chloro-10,14-dimethylnonadeca-10,13-dien-7-yne 500 mg. of 5% palladium-barium sulfate catalyst and 40 ml. of pyridine is shaken under hydrogen for about 2 hrs. (until the uptake of hydrogen practically ceases). The mixture is then filtered, diluted with water, and extracted with ether. The ether extract is washed with water, dilute hydrochloric acid, and aqueous sodium bicarbonate, then is dried over sodium sulfate and evaporated to leave a residue comprising 1-chloro-10,14-dimethylnonadeca-7,10,13-triene.

reactant | 1-chloro-10,14-dimethylnonadeca-10,13-dien-7-yne | 500 mg | ClCCCCCCC#CCC(=CCC=C(CCCCC)C)C | C21H35Cl
reactant | hydrogen | [H][H] | H2
catalyst | palladium-barium sulfate | S(=O)(=O)([O-])[O-].[Ba+2].[Pd+2].S(=O)(=O)([O-])[O-]
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-chloro-10,14-dimethylnonadeca-7,10,13-triene | ClCCCCCCC=CCC(=CCC=C(CCCCC)C)C | C21H37Cl
